US05284841
4-(2-(2H-2-trityltetrazol-5-yl)-1-pyrrolyl)-benzyl bromide is prepared as described in EP 0 480 204 A1 preparation 1 and 8, and as described in EXAMPLE 10. To this end 1-(4-methylphenyl)-2-cyanopyrrole is reacted with tributyltin azide to give 4-(2-(1H-tetrazol-5-yl)-1-pyrrolyl)-methylbenzene, which is protected by reaction with triphenylmethyl chloride. The benzylic methyl group of (2-(2H-2-trityltetrazol-5-yl)-1-pyrrolyl)-methylbenzene is then converted to the benzyl bromide with N-bromosuccinimide. An analog with a bromo substituent in the pyrrole ring is prepared from the same starting material 1-(4-methylphenyl)-2-cyanopyrrole by reaction with N-bromosuccinimide at room temperature to give 1-(4-methylphenyl)-4-bromo-2-cyanopyrrole. This is further reacted by analogy to the unsubstituted compound.

reactant | triphenylmethyl chloride | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1-(4-methylphenyl)-2-cyanopyrrole | CC1=CC=C(C=C1)N1C(=CC=C1)C#N | C12H10N2
product | 1-(4-methylphenyl)-4-bromo-2-cyanopyrrole | CC1=CC=C(C=C1)N1C(=CC(=C1)Br)C#N | C12H9BrN2
